US09446040B2
To a solution of tert-butyl[4-(2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]tetrahydro-2H-pyran-4-ylcarbamate in chloroform was added m-chloroperbenzoic acid (4 eq.) and stirred at ambient temperature for 2 hrs. Reaction mixture was then diluted with chloroform and washed with saturated sodium bicarbonate solution. Organic layer was dried over sodium sulphate and concentrated under reduced pressure to yield sticky mass. Product was then purified using silica gel column chromatography to afford tert-butyl[4-(2-ethyl-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)butyl]tetrahydro-2H-pyran-4-ylcarbamate.

reactant | tert-butyl[4-(2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]tetrahydro-2H-pyran-4-ylcarbamate | C(C)(C)(C)OC(N(C1CCOCC1)CCCCN1C(=NC=2C=NC=3C=CC=CC3C21)CC)=O | C26H36N4O3
reactant | m-chloroperbenzoic acid | 4 eq. | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl[4-(2-ethyl-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)butyl]tetrahydro-2H-pyran-4-ylcarbamate | C(C)(C)(C)OC(N(C1CCOCC1)CCCCN1C(=NC=2C=[N+](C=3C=CC=CC3C21)[O-])CC)=O | C26H36N4O4
